US07470679B2
3-(2-Acetoxymethyl-4-tert-butoxycarbonylamino-3-methyl-phenyl)-2-(R)-benzyloxycarbonylamino-propionic acid methyl ester
A solution of 3-(2-acetoxymethyl-4-tert-butoxycarbonylamino-3-methyl-phenyl)-2-benzyloxycarbonylamino-acrylic acid methyl ester (2.51 g, 4.9 mmol) in methanol (50 mL) and ethyl acetate (15 mL) was reacted in a manner similar to the preparation of 2-(S)-(acetoxymethyl-4-tert-butoxycarbonylamino-3-methyl-benzyl)-succinic acid diethyl ester. Title compound was obtained as an off-white solid in 97% yield. 1H NMR (300 MHz, CDCl3): δ=7.66 (d, J=7.9, 1H), 7.31 (m, 5H), 6.99 (d, J=8.5, 1H), 6.21 (s, 1H), 5.31 (d, J=7.6, 1H), 5.17 (d, J=3.7, 2H), 5.04 (d, J=5.80, 2H), 4.56 (m, 1H), 3.71 (s, 3H), 3.23 (dd, J1=5.80, J2=14.7, 1H), 3.07 (dd, J1=7.8, J2=14.2, 1H), 2.21 (s, 3H), 2.00 (s, 3H), 1.50 (s, 9H). MS m/e (M−H)−=513.0.

reactant | 3-(2-acetoxymethyl-4-tert-butoxycarbonylamino-3-methyl-phenyl)-2-benzyloxycarbonylamino-acrylic acid methyl ester | 4.9 mmol, 2.51 g | COC(C(=CC1=C(C(=C(C=C1)NC(=O)OC(C)(C)C)C)COC(C)=O)NC(=O)OCC1=CC=CC=C1)=O | C27H32N2O8
reactant | 2-(S)-(acetoxymethyl-4-tert-butoxycarbonylamino-3-methyl-benzyl)-succinic acid diethyl ester | C(C)OC([C@@H](CC(=O)OCC)C(C1=CC(=C(C=C1)NC(=O)OC(C)(C)C)C)COC(C)=O)=O | C24H35NO8
solvent | methanol | 50 mL | CO | CH4O
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | 3-(2-Acetoxymethyl-4-tert-butoxycarbonylamino-3-methyl-phenyl)-2-(R)-benzyloxycarbonylamino-propionic acid methyl ester | 97% yield | COC([C@@H](CC1=C(C(=C(C=C1)NC(=O)OC(C)(C)C)C)COC(C)=O)NC(=O)OCC1=CC=CC=C1)=O | C27H34N2O8
